US05559230
To 4-oxo-1-[4-(3,5-dichlorobenzoylamino)benzoyl]-1,2,3,4-tetrahydroquinoline(0.7 g) are added tetrahyrdofuran (10 ml) and methanol (10 ml). To the mixture is added sodium borohydride (0.1 g) in portions and the mixture is stirred at room temperature for 1 hour. Water is added to the reaction mixture and the mixture is extracted with dichloromethane. The solvent is concentrated and the resulting residue is purified by silica gel column chromatography (eluent; dichloromethane→dichloromethane:methanol=20:1), and recrystallized from ethanol to give 4-hydroxy-1-[4-(3,5-dichlorobenzoylamino)benzoyl]-1,2,3,4-tetrahydroquinoline (0.4 g) as white powder, m.p. 215°-217° C.

reactant | 4-oxo-1-[4-(3,5-dichlorobenzoylamino)benzoyl]-1,2,3,4-tetrahydroquinoline | 0.7 g | O=C1CCN(C2=CC=CC=C12)C(C1=CC=C(C=C1)NC(C1=CC(=CC(=C1)Cl)Cl)=O)=O | C23H16Cl2N2O3
reactant | tetrahyrdofuran | 10 ml | O1CCCC1 | C4H8O
reactant | methanol | 10 ml | CO | CH4O
reactant | sodium borohydride | 0.1 g | [BH4-].[Na+]
solvent | Water | O | H2O
product | 4-hydroxy-1-[4-(3,5-dichlorobenzoylamino)benzoyl]-1,2,3,4-tetrahydroquinoline | 0.4 g | OC1CCN(C2=CC=CC=C12)C(C1=CC=C(C=C1)NC(C1=CC(=CC(=C1)Cl)Cl)=O)=O | C23H18Cl2N2O3
